US04683308
272.0 g of cyanuric chloride, 730 ml of water and 552 ml of toluene are mixed in a stirred glass beaker at 5° C. 188.2 g of o-chloroaniline are added in the course of 15 minutes without cooling or heating the mixture. The mixture is subsequently stirred for 25 minutes and the temperature is thereby allowed to rise to 35° C. The mixture is then cooled to 20° C. in the course of 30 minutes. The product is filtered off, washed acid-free with water and dried at 60° C. under a waterpump vacuum. 333.6 g of 2-(2-chlorophenylamino)-4,6-dichloro-s-triazine with a content of 97.8% are obtained, which corresponds to a yield of 81.1%.

reactant | cyanuric chloride | 272.0 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | water | 730 ml | O | H2O
reactant | o-chloroaniline | 188.2 g | ClC1=C(N)C=CC=C1 | C6H6ClN
solvent | toluene | 552 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-chlorophenylamino)-4,6-dichloro-s-triazine | 333.6 g, yield of 81.1% | ClC1=C(C=CC=C1)NC1=NC(=NC(=N1)Cl)Cl | C9H5Cl3N4
